US04666920
3.8 g of 1-formyl-1-methylhydrazine are added dropwise to a solution of 16 g of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-ethoxy-acrylate in 60 ml of ethanol, while cooling with ice and stirring. The mixture is stirred at room temperature for 1 hour, 60 ml of water are added, the mixture is cooled with ice and the precipitate is filtered off with suction and washed with water/ethanol (1:1). 12 g of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-(2-formyl-2-methylhydrazino)-acrylate of melting point 92° C. are obtained.

reactant | 1-formyl-1-methylhydrazine | 3.8 g | C(=O)N(N)C | C2H6N2O
reactant | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-ethoxy-acrylate | 16 g | FC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1F)F)F | C14H12F4O4
reactant | water | 60 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-(2-formyl-2-methylhydrazino)-acrylate | 12 g | FC1=C(C(=O)C(C(=O)OCC)=CNN(C)C=O)C=C(C(=C1F)F)F | C14H12F4N2O4
